US08217066B2
Step 3: 1-{4′-[3-Methyl-4-(4-phenyl-but-1-enyl)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid:
1-{4′-[3-Methyl-4-(4-phenyl-but-1-enyl)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester (0.072 g, 0.15 mmol) in THF (2 mL) and EtOH (1 mL) was treated with 3 N aqueous NaOH (0.75 mL, 2.25 mmol) and the reaction was stirred at 75° C. overnight. The mixture was acidified with 1 N aqueous HCl (2.25 mL) and extracted with CH2Cl2. The combined organic layers were dried over MgSO4, filtered, and concentrated, and the residue was purified by preparative HPLC to give the title compound.

reactant | 1-{4′-[3-Methyl-4-(4-phenyl-but-1-enyl)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester | 0.15 mmol, 0.072 g | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)C=CCCC1=CC=CC=C1 | C32H31NO3
reactant | NaOH | 2.25 mmol, 3 N, 0.75 mL | [OH-].[Na+]
reactant | HCl | 1 N, 2.25 mL | Cl | ClH
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | EtOH | 1 mL | CCO | C2H6O
product | 1-{4′-[3-Methyl-4-(4-phenyl-but-1-enyl)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid | CC1=NOC(=C1C=CCCC1=CC=CC=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1(CC1)C(=O)O | C30H27NO3
